US07973051B2
ii) (4-Ethyl-5-methylsulfanyl-thiazol-2-yl)-carbamic acid tert-butyl ester
The above prepared (4-ethyl-thiazol-2-yl)-carbamic acid tert-butyl ester (1.12 g, 4.90 mmol) was dissolved in 12 mL of abs. THF and treated at −78° C. with a solution of nBuLi in hexane (6.53 mL, 1.5M, 2 eq.). The reaction mixture was kept for 15 Min. at −78° C. and then allowed to reach RT. After recooling to −78° C., methyldisulfanylmethane (0.870 mL, 2 eq.) was added and the mixture kept for 30 Min. at this temperature and then slowly warmed to RT. Pouring onto crashed ice/NH4Cl, twofold extraction with ethyl acetate washing with water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/ethyl acetate=85/15), afforded 1.067 g of the title product as off-white solid.

reactant | (4-ethyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 4.90 mmol, 1.12 g | C(C)(C)(C)OC(NC=1SC=C(N1)CC)=O | C10H16N2O2S
reactant | nBuLi | [Li]CCCC
reactant | hexane | 1.5M, 6.53 mL, 2 eq. | CCCCCC | C6H14
reactant | methyldisulfanylmethane | 0.870 mL, 2 eq. | CSSC | C2H6S2
solvent | THF | C1CCOC1 | C4H8O
product | (4-Ethyl-5-methylsulfanyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 1.067 g | C(C)(C)(C)OC(NC=1SC(=C(N1)CC)SC)=O | C11H18N2O2S2
